US07947691B2
1-(4-tert-Butyl-benzyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione (50 mg, 0.13 mmol) was alkylated with 4-tert-butyl benzyl bromide and subsequently deprotected to provide the title compound as a white solid (ret.=3.32 min., m/z=381.0): 1H NMR (d6-DMSO, 300 MHz) δ 1.20 (s, 9H); 5.64 (s, 2H); 7.17 (d, J=8 Hz, 1H); 7.25-7.60 (m, 5H); 7.95 (d, J=8 Hz, 1H); 8.08 (d, J=8 Hz, 1H).

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | 0.13 mmol, 50 mg | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | 4-tert-butyl benzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
product | 1-(4-tert-Butyl-benzyl)-3-hydroxy-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | C(C)(C)(C)C1=CC=C(CN2C(N(C(C3=C2C2=C(S3)C=CC=C2)=O)O)=O)C=C1 | C21H20N2O3S
